US07838675B2
iii) 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-1-methyl-2-(triphenylmethoxy)ethoxy]-pyrimidine
The subtitle compound was prepared according to the procedure outlined in example 1 step (iii) using (2R)-1-(triphenylmethoxy)-2-propanol (1.35 g) and 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step (ii) (1 g) in THF (15 mL) and 60% sodium hydride (0.18 g) to give the subtitle compound as a pale yellow oil. Yield: 1.8 g.

reactant | (2R)-1-(triphenylmethoxy)-2-propanol | 1.35 g | C1(=CC=CC=C1)C(OC[C@@H](C)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O2
reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 0.18 g | [H-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-1-methyl-2-(triphenylmethoxy)ethoxy]-pyrimidine | ClC1=NC(=NC(=C1)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)SCC1=C(C(=CC=C1)F)F | C33H27ClF2N2O2S
